US07378409B2
A solution of acetic acid, water, and THF (30 mL, 3:1:1) was added to benzyl (1S,2R)-2-((tert-butyldimethylsilyloxy)methyl)-4-oxocyclohexylcarbamate (2.56 g) in one portion. After 48 h, the reaction solvent was removed in vacuo and replaced with ethyl acetate (100 mL). The mixture was washed with water (1×25 mL), sat'd NaHCO3 (2×25 mL), and brine (1×25 mL). The resulting organic layer was dried over MgSO4, filtered, and then evaporated to dryness in vacuo to give benzyl (1S,2R)-2-(hydroxymethyl)-4-oxocyclohexylcarbamate (1.80 g) as a clear viscous oil after drying under vacuum overnight: 1H NMR (300 MHz, CDCl3) δ 7.37 (s, 5H), 5.57 (d, J=6.9 Hz, 1H), 5.13 (s, 2H), 4.25 (br s, 1H), 3.69 (m, H), 3.45 (m, 2H), 2.38-2.02 (m, 7H).

reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | water | O | H2O
reactant | benzyl (1S,2R)-2-((tert-butyldimethylsilyloxy)methyl)-4-oxocyclohexylcarbamate | 2.56 g | [Si](C)(C)(C(C)(C)C)OC[C@H]1[C@H](CCC(C1)=O)NC(OCC1=CC=CC=C1)=O | C21H33NO4Si
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | benzyl (1S,2R)-2-(hydroxymethyl)-4-oxocyclohexylcarbamate | 1.80 g | OC[C@H]1[C@H](CCC(C1)=O)NC(OCC1=CC=CC=C1)=O | C15H19NO4
